US05635527
Ethyl 4-[(5-cyano-2-benzofuranyl)carbonylamino]phenoxyacetate (1.49 g, 4.09 mmol) was dissolved in a mixed solvent of pyridine (50 ml) and triethylamine (5 ml). A hydrogen sulfide gas was blown in for 10 minutes at room temperature and the mixture was stirred for 16 hours. Low boiling matters were distilled away from the reaction mixture under reduced pressure to give ethyl 4-[(5-thiocarbamoyl-2-benzofuranyl)carbonylamino]phenoxyacetate as a yellow solid. Acetone (100 ml) and iodomethane (10 ml) were added to this solid, and the mixture was refluxed under heating for 2 hours. The reaction mixture was heated to room temperature. The resulting precipitate was collected by filtration to give ethyl 4-[[5-[(1-methylthio)iminomethyl]-2-benzofuranyl]carbonylamino]phenoxyacetate as a yellow solid. To this solid was added ethanol (50 ml) and benzylamine (0.5 ml, 4.6 mmol), and the mixture was refluxed under heating for 2 hours. The reaction mixture was concentrated to about 10 ml under reduced pressure, and diethyl ether (40 ml) was added. The resulting precipitate was collected by filtration to give 1.70 g of hydriodide of compound (1) as a yellow solid (69% in three steps).

reactant | Ethyl 4-[(5-cyano-2-benzofuranyl)carbonylamino]phenoxyacetate | 4.09 mmol, 1.49 g | C(#N)C=1C=CC2=C(C=C(O2)C(=O)NC2=CC=C(OCC(=O)OCC)C=C2)C1 | C20H16N2O5
reactant | hydrogen sulfide | S | H2S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
product | ethyl 4-[(5-thiocarbamoyl-2-benzofuranyl)carbonylamino]phenoxyacetate | C(N)(=S)C=1C=CC2=C(C=C(O2)C(=O)NC2=CC=C(OCC(=O)OCC)C=C2)C1 | C20H18N2O5S
